US07834002B2
To a 200 mL round-bottom flask, 2.76 g of t-butyl 5-(6-hydroxymethylpyridin-2-yl)pent-4-ynoate, 50 mg of platinum dioxide and 25 mL of EtOH were added, the mixture was stirred under hydrogen atmosphere at room temperature for 8 hours. The insoluble material was removed off, and then the filtrate was concentrated to give 2.78 g of t-butyl 5-(6-hydroxymethylpyridin-2-yl)pentanoate as a yellow oil.

reactant | t-butyl 5-(6-hydroxymethylpyridin-2-yl)pent-4-ynoate | 2.76 g | OCC1=CC=CC(=N1)C#CCCC(=O)OC(C)(C)C | C15H19NO3
catalyst | platinum dioxide | 50 mg | [Pt](=O)=O
solvent | EtOH | 25 mL | CCO | C2H6O
product | t-butyl 5-(6-hydroxymethylpyridin-2-yl)pentanoate | 2.78 g | OCC1=CC=CC(=N1)CCCCC(=O)OC(C)(C)C | C15H23NO3
